US08227461B2
e) 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-N-morpholin-4-yl-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 0.58 mL, 1.1 mmol) was added dropwise (exothermic) to a solution of N-aminomorpholine (111 μL, 1.2 mmol) in dioxane (2.5 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (100 mg, 0.29 mmol) in dioxane (2.5 mL) was added. The resulting mixture was then heated at 90° C. overnight and then cooled to room temperature and then poured into Seignette salt solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (silica, dichloromethane:methanol=9:1) afforded the title compound (47 mg, 40%) which was obtained as a white solid. MS: m/e=414.3 [M+H]+.

reactant | trimethylaluminium | 1.1 mmol, 2 M, 0.58 mL | C[Al](C)C
reactant | N-aminomorpholine | 1.2 mmol, 111 μL | NN1CCOCC1 | C4H10N2O
reactant | 6-[3-(5-fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.29 mmol, 100 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=NC=C(C=C1)F)=O | C17H14FN3O4
reactant | Seignette salt | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 6-[3-(5-Fluoro-pyridin-2-yl)-5-methyl-isoxazol-4-ylmethoxy]-N-morpholin-4-yl-nicotinamide | 47 mg, 40% | FC=1C=CC(=NC1)C1=NOC(=C1COC1=NC=C(C(=O)NN2CCOCC2)C=C1)C | C20H20FN5O4
